US09079880B2
Add a saturated aqueous solution of sodium bicarbonate (350 mL) to a solution of trans-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester (11 g, 38 mmol) in methylene chloride (350 mL). Cool the mixture to 0° C. and add BOC-anhydride (8.9 g, 41 mmol) dropwise. Slowly warm the mixture to room temperature and stir for 12 h. Extract the reaction mixture with methylene chloride, dry the combined organic phase over anhydrous sodium sulfate and concentrate under reduced pressure. Purify the residue by silica gel chromatography to provide 13 g of trans-4-(3-bromo-phenyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester.

reactant | sodium bicarbonate | 350 mL | C([O-])(O)=O.[Na+]
reactant | trans-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | 38 mmol, 11 g | COC(=O)[C@@H]1CNC[C@H]1C1=CC(=CC=C1)Br | C12H14BrNO2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | trans-4-(3-bromo-phenyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 13 g | COC(=O)[C@@H]1CN(C[C@H]1C1=CC(=CC=C1)Br)C(=O)OC(C)(C)C | C17H22BrNO4
